US08871753B2
2-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride
The desired compound was prepared according to the procedure of Example B26, using 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride and 2-chlorobenzoyl chloride as the starting materials in 24% yield. LCMS for C25H20Cl2N5O (M+H)+: m/z=476.2.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 2-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride | 24% yield | Cl.ClC1=C(C(=O)NC=2C=CC=3NC4=C(C=NC(NC=5C=CC=C(CCC2C3)C5)=N4)Cl)C=CC=C1 | InChI=1S/C25H19Cl2N5O.ClH/c26-20-7-2-1-6-19(20)24(33)31-22-11-10-18-13-16(22)9-8-15-4-3-5-17(12-15)30-25-28-14-21(27)23(29-18)32-25;/h1-7,10-14H,8-9H2,(H,31,33)(H2,28,29,30,32);1H
